Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
___ female with infected left foot blister
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with DM1, neuropathy and multiple diabetic 
foot ulcers, as well as rhematoid arthritis on prednisone, MTX 
and florinef, directly admitted from ___ for 
infected foot ulcer. Patient reports that the ulcer was noticed 
by her home health aide earlier this week. She denies recent 
trauma, denies fever, chills, nausea, vomiting, diarrhea, rash, 
or foot pain. She has had no recent antibiotic use except for 
pre-dental work some months ago. 
 
Past Medical History:
1. Type I Diabetes: ___ year history complicated by peripheral 
neuropathy and diabetic foot ulcers
2. Rheumatoid arthritis: ___ year history status post surgery for 
repair of carpal tunnel, left knee, shoulder, hands, and various 
toes
3. Question Sjogren's syndrome
4. Chronic malabsorption of unknown etiology
5. Iron deficiency anemia with recent normal colonoscopy
 
Social History:
___
Family History:
Mother with type ___ DM. Maternal grandfather with myocardial 
infarction at ___.  No history of cancer.
 
Physical Exam:
Vitals: T:98.1 BP:171/76 P: R: SaO2:  
General: Elderly female, awake, alert, NAD, pleasant, 
appropriate, cooperative.  
HEENT: PERRL, EOMI. MMM.  
Neck: supple, no significant JVD.  
Pulmonary: Lungs CTA bilaterally, no wheezes  
Cardiac: RR, nl S1 S2, no murmurs appreciated  
Abdomen: soft, NT, ND, normoactive bowel sounds  
Extremities: Right foot with 1+ non-pitting edema, no erythema 
or skin breakdown. Left foot with erythematous ulceration with 
drainage across the plantar surface, with erythematous skin up 
to the ankle.  
Skin: no other rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves ___ intact.  

 
Pertinent Results:
___ 01:05PM BLOOD WBC-6.5 RBC-3.04* Hgb-9.8* Hct-28.8* 
MCV-95 MCH-32.3* MCHC-34.1 RDW-15.0 Plt ___
___ 05:44AM BLOOD WBC-4.6 RBC-3.14* Hgb-10.0* Hct-29.0* 
MCV-92 MCH-31.7 MCHC-34.4 RDW-14.6 Plt ___
___ 01:05PM BLOOD Glucose-137* UreaN-14 Creat-0.8 Na-141 
K-4.5 Cl-103 HCO3-29 AnGap-14
___ 05:44AM BLOOD Glucose-82 UreaN-19 Creat-0.8 Na-139 
K-4.4 Cl-104 HCO3-26 AnGap-13
___ 01:05PM BLOOD Calcium-9.4 Phos-2.7 Mg-2.0 Iron-29*
___ 01:05PM BLOOD calTIBC-202* VitB12-252 Folate-GREATER TH 
Ferritn-390* TRF-155*
___ 1:10 pm FOOT CULTURE      Source: foot wound. 

   WOUND CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         Rifampin should not be used alone for therapy. 
         Please contact the Microbiology Laboratory (___) 
immediately if
         sensitivity to clindamycin is required on this 
patient's isolate. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------   =>8 R
OXACILLIN-------------   =>4 R
PENICILLIN G---------- =>0.5 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S

Foot XRAY:
HISTORY: Diabetes, chronic ulcers, left foot cellulitis. 
  
FINDINGS: Three views of the left foot are compared to ___. 
There is no significant interval change compared to the prior 
study. Prior osteotomies of the fourth and fifth metatarsals are 
present. There are stable prominent degenerative changes of the 
first TMT joint which may be related to prior trauma. There is 
no new obvious lucency to suggest osteomyelitis, and no new 
fracture deformity is seen. The soft tissues are edematous. 
  
IMPRESSION: Stable examination of the left foot. No new evidence 
of fracture or osteomyelitis. 

 
Brief Hospital Course:
1. Cellulitis/Foot ulcer: Clinical appearance on admission was 
is of a mild cellulitis and infected blister. Patient afebrile 
and no systemic symptoms during hospitalization.  She was 
started on IV Vancomycin, PO cipro and flagyl because she is at 
high risk for serious infection as she is on immunosuppression, 
has multiple hospitalizations, diabetes and history of MSSA and 
MRSA, as well as history of osteomyelitis in the right foot.  We 
took cultures of the wound, blood, urine, blood.  The wound grew 
MRSA and all else was negative. Foot Xray showed no evidence of 
fracture or osteomyelitis. She was transitioned to PO 
Doxycycline for total 10 day course.  She was followed by the 
podiatry team in house who recommended felted foam w/post-op 
shoe, daily dressing changes and wet to dry dressings.  The 
patient was seen by physical therapy who recommended short term 
rehab. 
  
2. Diabetes Mellitus type 1 with complication: Complications of 
peripheral neuropathy and chronic foot ulcer. Patient was 
continued on home glargine and SSI, as well as lyrica for 
peripheral neuropathy. 
  
3. Rheumatoid Arthritis: Patient was continued on her home 
prednisone.  She was also given leucovorin 10mg po once because 
she had taken her methotrexate the morning prior to admission.  
We spoke with her rhematologist who recommended stopping MTX 
while infection was ongoing.  We explained this to the patient. 

4. Anemia: Chronic with history of b12 deficiency. Iron studies 
appeared to be consistent with chronic disease. 
  
5 Urinary Incontinence: Patient on long acting detrol at home, 
we don't have it in house so we we continued her on 2mg po BID 
regular Detrol. 
  
6. Hypertension: Patient on unknown doses of lisinopril and 
metoprolol. We started her on lisinopril 5  and metoprolol 12.5  
and her blood pressure was well controlled..  
 
7. Depression: Stable.  Continued patient on home citalopram and 
cymbalta. 
  
8. C.diff - Pt developed ___ days of diarrhea, loose stools 
about 2 BMs each day. No abdominal pain. She was discharged on a 
two week course of Flagyl.
 
Medications on Admission:
ALENDRONATE [FOSAMAX] - (Prescribed by Other Provider) - Dosage  

uncertain  
CITALOPRAM [CELEXA] - (Prescribed by Other Provider) - 20 mg  
Tablet - onr Tablet(s) by mouth once daily  
INSULIN GLARGINE [LANTUS] - (Prescribed by Other Provider) - 100 
 
unit/mL Solution - 6 units once daily at bedtime  
INSULIN LISPRO [HUMALOG] - (Prescribed by Other Provider) - 100  

unit/mL Solution - sliding scale  
LEUCOVORIN CALCIUM - (Prescribed by Other Provider) - Dosage  
uncertain  
METHOTREXATE SODIUM [METHOTREXATE (ANTI-RHEUMATIC)] -  
(Prescribed by Other Provider) - 2.5 mg Tablets, Dose Pack - 7  
Tablets(s) by mouth once weekly on ___  
PREDNISONE - (Prescribed by Other Provider) - 5 mg Tablet - one  

Tablet(s) by mouth every other day  
ACETAMINOPHEN [TYLENOL ARTHRITIS] - (Prescribed by Other  
Provider) - 650 mg Tablet Sustained Release - two Tablet(s) by  
mouth twice daily  
ASCORBIC ACID [VITAMIN C] - (Prescribed by Other Provider) -  
Dosage uncertain  
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] - (Prescribed by Other  
Provider) - Dosage uncertain  
MULTIVITAMIN - (Prescribed by Other Provider) - Tablet - one  
Tablet(s) by mouth once daily  
Cymbalta 60 mg po daily  
Lyrica 25 mg po qHS  

 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
4. Pregabalin 25 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
5. Prednisone 5 mg Tablet Sig: One (1) Tablet PO EVERY OTHER DAY 
(Every Other Day).  
6. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

8. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: 0.5 Tablet Sustained Release 24 hr PO DAILY (Daily).  
9. Detrol LA 4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO at bedtime.  
10. Insulin Glargine 100 unit/mL Cartridge Sig: Six (6) units 
Subcutaneous at bedtime: please continue your insulin sliding 
scale as directed prior to this hospitalization.  
11. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours) for 7 days: last day ___.  
12. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO three 
times a day for 2 weeks.  
13. Insulin
Please follow attached insulin schedule with both sliding scale 
and fixed doses.
14. Tylenol ___ mg Tablet Sig: ___ Tablets PO every eight (8) 
hours as needed for pain.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Cellulitis
Infected foot ulcer
Diabetes type 1 with complication of peripheral neuropathy
Hypertension
Rheumatoid Arthritis
Depression

 
Discharge Condition:
Stable.

 
Discharge Instructions:
You came to the hospital with an infected foot.  The podiatry 
team saw you here.  We started you on IV antibiotics and you 
improved.  We then transitioned you to oral antibiotics.  Your 
foot XRAY showed now evidence of an infection in your bone.  Our 
physical therapists saw you and recommended short term rehab 
until your foot recovers.
.
We made the following changes to your medications:
Doxycycline 100 po twice daily for 7 more days (last day 
___
We spoke with your rheumatologist and you should STOP 
Methotrexate until your infection is improved (after you follow 
up with your podiatrist).
.
Please follow up with your podiatrist, your rhematologist, and 
your primary care doctor as below.
.
If you have worsening pain in your foot, if you notice more 
redness, swelling or skin breakdown, if you have fever, chills, 
nausea, vomiting, diarrhea or any other symptom that is 
concerning to you, please call your doctor or come to the 
emergency room.
 
Followup Instructions:
___